US08541576B2
To a solution of ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate 10 g (42.6 mmol) and acetic acid 5 ml in absolute ethanol (150 ml) at room temperature was added tert-butyl hydrazine hydrochloride 6 g (48 mmol). The mixture was stirred at 60° C. for 3 hours. The volatiles were removed under vacuum, the residue was diluted with DCM and washed with sat. aqueous solution of NaHCO3, and with brine. The organic phase was dried with sodium sulfate, filtered, and concentrated. The crude material was purified by silica gel column chromatography eluting with ethyl acetate and hexane (1:2) to give ethyl 1-tert-butyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate in 90% yield. LC/MS (254 nm) HPLC method 2 Rt 6.08 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.18 (q, J=6.83 Hz, 2H) 2.93-2.30 (3 m, 6H) 1.58 (s, 9H), 1.16 (t, J=6.83 Hz, 3H). HRMS (ESI) calcd for C14H20N2O3 [M+H]+ 287.1366 found 287.1356.

reactant | ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 42.6 mmol, 10 g | C(C)OC=1C(C(CCC1)C(C(=O)OCC)=O)=O | C12H16O5
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | tert-butyl hydrazine hydrochloride | 48 mmol, 6 g | Cl.C(C)(C)(C)NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 1-tert-butyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 90% yield | C(C)(C)(C)N1N=C(C=2CCCC(C12)=O)C(=O)OCC | C14H20N2O3
